US06410594B1
To a solution of sodium azide (2.12 g, 32.6 mmol) in dimethylformamide (15 mL) cooled to 0° C. was added dropwise with stirring 4-bromocyclopent-2-enone (DePuy, C. H.; Isaks, M.; Eilers, K. L.; Morris, G. F. J. Org. Chem. 1964. 29, 3503; 3.5 g, 21.7 mmol) in dimethyl-formamide (5 mL) over a period of 5 min. The reaction mixture was stirred at 0° C. for 30 min and diluted with ethyl acetate (20 mL). The reaction mixture was washed with water (2×20 mL) and brine (20 mL), dried (MgSO4), filtered, and concentrated in vacuo to furnish an oily residue. Purification of the crude oil by flash column chromatography (10-15% ethyl acetate in hexane) gave 1.9 g (71%) of 4-azidocyclopent-2-enone as a light-yellow oil.

reactant | sodium azide | 32.6 mmol, 2.12 g | [N-]=[N+]=[N-].[Na+]
reactant | 4-bromocyclopent-2-enone | 21.7 mmol, 3.5 g | BrC1C=CC(C1)=O | C5H5BrO
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | dimethyl-formamide | 5 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 4-azidocyclopent-2-enone | 1.9 g, 71% | N(=[N+]=[N-])C1C=CC(C1)=O | C5H5N3O
